US06235731B1
1) Synthesis of N-(3-phenylpropan-1-yl)-N-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)trifluoroacetamide
Under nitrogen, 0.25 g (6.25 mM) of a 60% suspension of sodium hydride in liquid paraffin was added to a solution of 1.73 g (5.57 mM) of N-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)trifluoroacetoamide in N,N-dimethylformamide (20 ml) at 0° C. and the mixture was stirred at 0° C. for 30 minutes. To this mixture was added 1.0 ml (6.58 mM) of 1-bromo-3-phenylpropane and the mixture was stirred at room temperature for 2.5 hours and further at 60° C. for one hour. The reaction was stopped by adding water and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over MgSO4, and purified by column chromatography (ethyl acetate-hexane 30%) to provide the title compound.

reactant | sodium hydride | [H-].[Na+]
reactant | N-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)trifluoroacetoamide | 5.57 mM, 1.73 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(C(F)(F)F)=O | C13H21F3N2O3
reactant | 1-bromo-3-phenylpropane | 6.58 mM, 1.0 ml | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(3-phenylpropan-1-yl)-N-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)trifluoroacetamide | C1(=CC=CC=C1)CCCN(C(C(F)(F)F)=O)CC1CCN(CC1)C(=O)OC(C)(C)C | C22H31F3N2O3
